US06756372B2
(d) 4-Amino-1-t-butyl-4-cyano-piperidine
1-t-Butyl-4-piperidone (1.3 g, 8.4 mmol, 1.0 equiv), NaCN (0.61 g, 12.6 mmol, 1.5 equiv), and NH4Cl (0.67 g, 12.6 mmol, 1.5 equiv) were combined in 34 mL of 2 M NH3 in MeOH. The mixture was refluxed for 2 h at which time an additional 34 mL of 2 M NH3 in MeOH was added followed by another 2 h at reflux. The mixture was cooled and filtered. The filtrate was concentrated in vacuo and the residue was triturated with CH2Cl2 and filtered again. The solution was concentrated to a thick red oil which was used without further purification; MS, m/z 182=M+1.

reactant | 1-t-Butyl-4-piperidone | 8.4 mmol, 1.3 g, 1.0 equiv | C(C)(C)(C)N1CCC(CC1)=O | C9H17NO
reactant | NaCN | 12.6 mmol, 0.61 g, 1.5 equiv | [C-]#N.[Na+]
reactant | NH4Cl | 12.6 mmol, 0.67 g, 1.5 equiv | [NH4+].[Cl-]
solvent | NH3 | 2 M, 34 mL | N | H3N
solvent | MeOH | CO | CH4O
solvent | NH3 | 2 M, 34 mL | N | H3N
product | 4-Amino-1-t-butyl-4-cyano-piperidine | NC1(CCN(CC1)C(C)(C)C)C#N | C10H19N3
